US07432260B2
2-Chloro-N-{4-methyl-5-[2-(3-nitro-phenylamino)-pyrimidin-4-yl]-thiazol-2-yl}-acetamide [24].
A solution of [4-(2-amino-4-methyl-thiazol-5-yl)-pyrimidin-2-yl]-(3-nitro-phenyl)-amine (0.33 g, 1.0 mmol,) in dry DMF (3 mL) was cooled on an ice-water bath. Chloroacetyl chloride (0.22 g, 2.0 mmol) and pyridine (80 μL) were added. After stirring at room temperature for 18 h, the reaction mixture was concentrated, poured into ice water and extracted with CH2Cl2. The organic phases were combined, washed with brine, dried on MgSO4 and evaporated to dryness. The resulting greenish residue was purified by SiO2 chromatography (1:1 EtOAc/PE) to afford the title compound as a gray solid. Anal. RP-HPLC: tR=20.6 min (0-60% MeCN in 0.1% aq CF3COOH over 20 min, 1 mL/min, purity>97%). 1H-NMR (DMSO-d6) δ: 2.45 (s, 3H, CH3), 4.12 (s, 2H, CH2), 7.03 (d, 1H, J=5.2 Hz, pyrimidinyl-H), 7.42 (m, 1H, Ph-H), 7.63 (m, 1H, Ph-H), 8.01 (m, 1H, Ph-H), 8.41 (d, 1H, J=5.2 Hz, pyrimidinyl-H), 8.64 (s, 1H, Ph-H).

reactant | [4-(2-amino-4-methyl-thiazol-5-yl)-pyrimidin-2-yl]-(3-nitro-phenyl)-amine | 1.0 mmol, 0.33 g | NC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC(=CC=C1)[N+](=O)[O-] | C14H12N6O2S
reactant | Chloroacetyl chloride | 2.0 mmol, 0.22 g | ClCC(=O)Cl | C2H2Cl2O
reactant | pyridine | 80 μL | N1=CC=CC=C1 | C5H5N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-Chloro-N-{4-methyl-5-[2-(3-nitro-phenylamino)-pyrimidin-4-yl]-thiazol-2-yl}-acetamide | ClCC(=O)NC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC(=CC=C1)[N+](=O)[O-] | C16H13ClN6O3S
